US08258134B2
A solution of 2-[4-(2,6-difluoro-phenoxy)-6-oxo-6H-pyridazin-1-yl]-4-methyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-amide (1.21 g, 2.33 mmol) in methanol (23 mL, 0.1 M) at 25° C. was treated with para-toluenesulfonic acid monohydrate (66.3 mg, 0.34 mmol). The reaction was stirred at 25° C. overnight. After this time, the reaction was diluted with ethyl acetate (200 mL) and was washed with a saturated aqueous sodium bicarbonate solution (2×100 mL), water (1×100 mL) and a saturated aqueous sodium chloride solution (1×100 mL). The organics were dried over magnesium sulfate, filtered, rinsed and then concentrated in vacuo. Silica gel column chromatography (AnaLogix 80 g, 1-10% methanol/methylene chloride) afforded 2-[4-(2,6-difluoro-phenoxy)-6-oxo-6H-pyridazin-1-yl]-4-methyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide (0.86 g, 77%) as a white solid as a mixture of diastereomers; ES+-HRMS m/e calcd for C22H25N5O5F2 [M+H+] 478.1897 found 478.1896. 1H-NMR (400 MHz, DMSO-d6) δ ppm 0.87 (d, J=6.8 Hz, 3H) 0.89 (d, J=6.8 Hz, 3H) 1.38-1.51 (m, 1H) 1.80 (ddd, J=13.6, 9.4, 4.3 Hz, 1H) 2.10-2.26 (m, 1H) 3.21-3.51 (m, 2H) 3.71-3.81 (m, 1H) 3.82-3.92 (m, 1H) 4.09 (dd, J=13.6, 3.9 Hz, 1H) 4.70 (t, J=5.6 Hz, 1H) 4.91-4.96 (m, 1H) 5.52 (dd, J=11.0, 3.9 Hz, 1H) 6.04 (d, J=2.7 Hz, 1H) 6.36 (d, J=2.1 Hz, 1H) 7.35-7.43 (m, 2H) 7.43-7.52 (m, 1H) 7.53 (d, J=2.1 Hz, 1H) 8.28 (d, J=2.7 Hz, 1H) 10.82 (s, 1H).

reactant | 2-[4-(2,6-difluoro-phenoxy)-6-oxo-6H-pyridazin-1-yl]-4-methyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-amide | 2.33 mmol, 1.21 g | CC1(OC[C@H](O1)CN1N=C(C=C1)NC(C(CC(C)C)N1N=CC(=CC1=O)OC1=C(C=CC=C1F)F)=O)C | C25H29F2N5O5
reactant | para-toluenesulfonic acid monohydrate | 0.34 mmol, 66.3 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 0.1 M, 23 mL | CO | CH4O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-[4-(2,6-difluoro-phenoxy)-6-oxo-6H-pyridazin-1-yl]-4-methyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide | 0.86 g, 77% | O[C@H](CN1N=C(C=C1)NC(C(CC(C)C)N1N=CC(=CC1=O)OC1=C(C=CC=C1F)F)=O)CO | C22H25F2N5O5
